US05399712
A solution of 369 mg (1 mmol) of pentafluorophenyl 1-methylindole-3-glyoxylate in 20 ml of dichloromethane was added to a stirred solution of 266 mg (1 mmol) of isopropyl 1-methyl-3-indoleacetimidate hydrochloride and 404 mg (4 mmol) of triethylamine in 25 ml of dichloromethane. The solution obtained was heated to reflux under nitrogen for 18 hours, cooled and treated with 950 mg (5 mmol) of p-toluenesulfonic acid. After 1 hour, the solvent was removed under reduced pressure. The residue was purified by flash chromatography on silica gel using dichloromethane/ethyl acetate (8:1) for the elution to give 159mg (45%) of 3,4-bis-(1-methyl-3-indolyl)-1H-pyrrole-2,5-dione in the form of an orange colored solid of melting point >310° C.

reactant | pentafluorophenyl 1-methylindole-3-glyoxylate | 1 mmol, 369 mg | CN1C=C(C2=CC=CC=C12)C(C(=O)OC1=C(C(=C(C(=C1F)F)F)F)F)=O | C17H8F5NO3
reactant | isopropyl 1-methyl-3-indoleacetimidate hydrochloride | 1 mmol, 266 mg | Cl.CN1C=C(C2=CC=CC=C12)CC(OC(C)C)=N
reactant | triethylamine | 4 mmol, 404 mg | C(C)N(CC)CC | C6H15N
reactant | p-toluenesulfonic acid | 5 mmol, 950 mg | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | dichloromethane | 20 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 25 ml | ClCCl | CH2Cl2
product | 3,4-bis-(1-methyl-3-indolyl)-1H-pyrrole-2,5-dione | 159mg, 45% | CN1C=C(C2=CC=CC=C12)C=1C(NC(C1C1=CN(C2=CC=CC=C12)C)=O)=O | C22H17N3O2
